US07947718B2
(4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-pyridin-2-yl)-methanone
(5-Hydroxymethyl-pyridin-2-yl)-(4-isopropyl-piperazin-1-yl)-methanone. A solution of 6-(4-isopropyl-piperazine-1-carbonyl)-nicotinic acid methyl ester (0.500 g, 1.72 mmol) in THF (15 mL) was cooled to −78° C. in a dry ice bath. A solution of lithium tri-tert-butoxyaluminohydride (1 M in THF, 3.44 mL) was then added drop-wise to the reaction mixture. The resulting solution was allowed to come to rt and was stirred for 18 h. The reaction was quenched with satd. aq. potassium sodium tartrate (Rochelle's salt, 15 mL) and extracted with DCM (3×50 mL). The organic layers were combined, dried (Na2SO4), and concentrated to give the title compound (0.275 g, 61%).

reactant | (5-Hydroxymethyl-pyridin-2-yl)-(4-isopropyl-piperazin-1-yl)-methanone | OCC=1C=CC(=NC1)C(=O)N1CCN(CC1)C(C)C | C14H21N3O2
reactant | 6-(4-isopropyl-piperazine-1-carbonyl)-nicotinic acid methyl ester | 1.72 mmol, 0.500 g | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C(C)C)=O | C15H21N3O3
reactant | lithium tri-tert-butoxyaluminohydride | 1 M, 3.44 mL | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-pyridin-2-yl)-methanone | 0.275 g, 61% | C(C)(C)N1CCN(CC1)C(=O)C1=NC=C(C=C1)CN1CCCCC1 | C19H30N4O
